US07915419B2
4-(4-Chloro-3-fluoro-phenoxy)-1,2,2,6,6-pentamethyl-piperidine hydrochloric acid salt
Was prepared according to method A from 1,2,2,6,6-pentamethyl-piperidin-4-ol and 4-chloro-3-fluorophenol. Mp 187.2-190.7° C.

reactant | 1,2,2,6,6-pentamethyl-piperidin-4-ol | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
reactant | 4-chloro-3-fluorophenol | ClC1=C(C=C(C=C1)O)F | C6H4ClFO
product | 4-(4-Chloro-3-fluoro-phenoxy)-1,2,2,6,6-pentamethyl-piperidine hydrochloric acid salt | Cl.ClC1=C(C=C(OC2CC(N(C(C2)(C)C)C)(C)C)C=C1)F | InChI=1S/C16H23ClFNO.ClH/c1-15(2)9-12(10-16(3,4)19(15)5)20-11-6-7-13(17)14(18)8-11;/h6-8,12H,9-10H2,1-5H3;1H
